US04053501
To a suitable vessel containing about 16.2 g of an approximate 50:50 mixture of methyl α-chloro-o-toluate and methyl α-bromo-o-toluate is added 100 ml of acetonitrile and 17.2 g (0.085 mol) of tributylphosphine and held at reflux under nitrogen for about 45 minutes. The solvent is removed under vacuum and the residue is dissolved in 370 ml of water. The aqueous solution is extracted twice with ether and added to a solution of 102 g (1.0 mol) of sodium bromide in 150 ml of water. This mixture is extracted with three 150 ml portions of chloroform. The chloroform extracts are combined, dried over calcium sulfate and concentrated under vacuum to 36.3 g of colorless oil. Two triturations of this oil with ether provides a white solid which upon recrystallization from ethyl acetate-ether yields approximately 24.6 g of o-methoxycarbonylbenzyltributylphosphonium bromide having a melting point of 65°-66°.

reactant | methyl α-chloro-o-toluate | ClCC=1C(=CC=CC1)C(=O)OC | C9H9ClO2
reactant | methyl α-bromo-o-toluate | BrCC=1C(=CC=CC1)C(=O)OC | C9H9BrO2
reactant | tributylphosphine | 0.085 mol, 17.2 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | sodium bromide | 1.0 mol, 102 g | [Br-].[Na+]
solvent | water | 150 ml | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | o-methoxycarbonylbenzyltributylphosphonium bromide | approximately 24.6 g | [Br-].COC(=O)C1=C(C[P+](CCCC)(CCCC)CCCC)C=CC=C1 | InChI=1S/C21H36O2P.BrH/c1-5-8-15-24(16-9-6-2,17-10-7-3)18-19-13-11-12-14-20(19)21(22)23-4;/h11-14H,5-10,15-18H2,1-4H3;1H/q+1;/p-1
